US07074801B1
Methyl 5-(4-iodo-1-trityl-1H-3-pyrazolyl)-2-thiophene carboxylate
20 g methyl 5-(1-trityl-1H-3-pyrazolyl)-2-thiophene carboxylate and 10.6 g N-iodosuccinimide were stirred in 200 mL N,N-dimethylformamide at 80° C. for 24 hours. Additional N-iodosuccinimide, 10.6 g, was added thereto and stirred at 80° C. for 24 hours, and then an aqueous solution of sodium thiosulfate and an aqueous solution of sodium bicarbonate were added thereto and stirred for 1 hour, and the formed solid was collected by filtration. The solid was dissolved in dichloromethane and dried over magnesium sulfate, and the solvent was removed, whereby 24.5 g of the title compound was obtained as colorless crystals.

reactant | methyl 5-(1-trityl-1H-3-pyrazolyl)-2-thiophene carboxylate | 20 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)N1N=C(C=C1)C1=CC=C(S1)C(=O)OC | C28H22N2O2S
reactant | N-iodosuccinimide | 10.6 g | IN1C(CCC1=O)=O | C4H4INO2
reactant | sodium thiosulfate | S(=S)(=O)([O-])[O-].[Na+].[Na+]
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | N,N-dimethylformamide | 200 mL | CN(C=O)C | C3H7NO
product | Methyl 5-(4-iodo-1-trityl-1H-3-pyrazolyl)-2-thiophene carboxylate | 24.5 g | IC=1C(=NN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=C(S1)C(=O)OC | C28H21IN2O2S
